US08440693B2
Intermediate 28.1: (2-Chloro-5-nitro-phenyl)-(4-chloro-phenyl)-methanol
To a solution of (4-chlorophenyl)magnesium bromide (1M in Et2O, 81 ml, 81 mmol) in THF (200 ml) was added drop wise a solution of 2-chloro-5-nitrobenzaldehyde (10 g, 53.9 mmol) in THF (100 ml) at −78° C. (dry ice/acetone bath). After the addition, the reaction mixture was further stirred at −78° C. for 1 h then 10 min at 0° C. (ice bath). A saturated aqueous NH4Cl solution (400 ml) was added and the resulting mixture was extracted with AcOEt (2×400 ml). The combined organic layers were washed with brine then dried over Na2SO4, filtered and evaporated to dryness. The resulting crude material was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, heptane/TBME 95:5→6:4) to yield the title compound (14.4 g, 48.4 mmol, 90%) as a beige solid. TLC: RF=0.80 (heptane/DCM/TBME 1:1:2); HPLC: AtRet=2.43 min; LC-MS: m/z not detected; 1H NMR (400 MHz, CDCl3): 6.20 (s, 1H), 7.36 (s, 4H), 7.53 (d, J=8.6, 1H), 8.13 (dd, J=8.8, 2.9, 1H), 8.66 (d, J=2.7, 1H).

reactant | (4-chlorophenyl)magnesium bromide | 81 mmol, 1M, 81 ml | ClC1=CC=C(C=C1)[Mg]Br
reactant | 2-chloro-5-nitrobenzaldehyde | 53.9 mmol, 10 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | NH4Cl | 400 ml | [NH4+].[Cl-]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (2-Chloro-5-nitro-phenyl)-(4-chloro-phenyl)-methanol | 48.4 mmol, 14.4 g, 90% | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(O)C1=CC=C(C=C1)Cl | C13H9Cl2NO3
